US05098919
(7-Isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]-thiazol-3-yl)acetylmorpholine
1.54 g of (7-isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]thiazol-3-yl)acetic acid, 0.70 g of morpholine and 0.12 g of 4-N,N-dimethylaminopyridine were dissolved in 50 ml of dichloromethane. 1.44 g of N,N'-dicyclohexylcarbodiimide was added thereto under ice-cooling and stirring. Then the mixture was stirred at room temperature for 9 days. After filtering off the insoluble matters, the solvent was distilled off. The oily residue thus obtained was purified by silica gel column chromatography. After crystallizing from ether/n-hexane, 1.05 g of the title compound was obtained.

reactant | (7-isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]thiazol-3-yl)acetic acid | 1.54 g | C(C)(C)OC(=O)C=1C(=CN2C1SCC2CC(=O)O)C | C13H17NO4S
reactant | morpholine | 0.70 g | N1CCOCC1 | C4H9NO
reactant | N,N'-dicyclohexylcarbodiimide | 1.44 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (7-Isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]-thiazol-3-yl)acetylmorpholine | 1.05 g | C(C)(C)OC(=O)C=1C(=CN2C1SCC2CC(=O)N2CCOCC2)C | C17H24N2O4S
